* SRAM 4x4 read testbench

.lib /Users/rahul/acads/research/sky130/pdk/skywater-pdk/libraries/sky130_fd_pr/latest/models/sky130.lib.spice tt

.include ../../lib/sram_sp_cell/sky130_fd_bd_sram__sram_sp_cell.spice
.include ../../lib/sramgen_sp_sense_amp/sramgen_sp_sense_amp.spice
.include ../../lib/sramgen_control/sramgen_control.spice
.include ../../lib/openram_dff/openram_dff.spice
.include ../../build/spice/sram_4x4.spice

.param vdd='1.8'
.param tr='100p'
.param tf='100p'


Xsram
* vdd vss clk clk_b
+ vdd 0 clk clk_b
* din in
+ vdd 0
* dout
+ dout_out_1 dout_out_0
* we cs
+ 0 vdd
* addr
+ vdd 0 0
* wl_en sae pcb wr_drv_en
+ clk clk_delayed clk 0
+ sramgen_sram_4x4

Vclk clk 0 dc 0 PULSE(0 {vdd} 10p {tr} {tf} 2n 4n 0)
Xclk_dly clk clk_b clk_delayed vdd 0 control_logic_delay_chain
Vdd vdd 0 {vdd}

.ic
+ v(xsram.xbitcells.xbitcell_2_0.q)=0
+ v(xsram.xbitcells.xbitcell_2_2.q)={vdd}

.control
tran 5p 18n 0n
wrdata read.dat
+ v(clk)
+ v(clk_b)
+ v(dout_out_1)
+ v(dout_out_0)
+ v(xsram.wl_3)
+ v(xsram.wl_2)
+ v(xsram.wl_1)
+ v(xsram.wl_0)
+ v(xsram.bl_2)
+ v(xsram.br_2)
+ v(xsram.bl_0)
+ v(xsram.br_0)
+ v(clk_delayed)
+ v(xsram.bl_read_1)
+ v(xsram.br_read_1)
+ v(xsram.bl_read_0)
+ v(xsram.br_read_0)
+ v(xsram.addr_0)
+ v(xsram.dout_1)
+ v(xsram.dout_0)
+ v(xsram.dout_negedge_1)
+ v(xsram.dout_negedge_0)
.endc

.end

